US04617394
2,6-Dimethoxy-4-methyl-8-(4-phthalimido-1-methylbutylamino)-5-(3-trifluoromethylphenoxy)quinoline (VIII):
A mixture of 8-amino-2,6-dimethoxy-4-methyl-5-(3-trifluoromethylphenoxy)quinoline (8.0 g, 21.2 mmol), diisopropylamine (2.14 g, 21.2 mmol) and 4-iodo-1-phthalimidopentane (IPP) (7.26 g, 21.2 mmol) in CH3CN (40 mL) was refluxed for 24 hours after which time additional diisopropylamine (2.14 g, 21.2 mmol) and IPP (7.26 g, 21.2 mmol) were added. After refluxing a further 24 hours, more diisopropylamine (1.07 g, 10.6 mmol) and IPP (3.63 g, 10.6 mmol) were added and refluxing was continued a further 24 hours. The cooled mixture was diluted with H2O (20 mL) and stirred in an ice bath until crystallization was complete. Filtration and recrystallization from IPA gave 8.4 g (67%) of 1st crop title compound, mp 120°-124° C. Further recrystallization raised the mp to 121°-124° C.

reactant | 8-amino-2,6-dimethoxy-4-methyl-5-(3-trifluoromethylphenoxy)quinoline | 21.2 mmol, 8.0 g | NC=1C=C(C(=C2C(=CC(=NC12)OC)C)OC1=CC(=CC=C1)C(F)(F)F)OC | C19H17F3N2O3
reactant | diisopropylamine | 21.2 mmol, 2.14 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-iodo-1-phthalimidopentane | 21.2 mmol, 7.26 g | IC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14INO2
reactant | diisopropylamine | 21.2 mmol, 2.14 g | C(C)(C)NC(C)C | C6H15N
reactant | IPP | 21.2 mmol, 7.26 g | IC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14INO2
reactant | diisopropylamine | 10.6 mmol, 1.07 g | C(C)(C)NC(C)C | C6H15N
reactant | IPP | 10.6 mmol, 3.63 g | IC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14INO2
solvent | CH3CN | 40 mL | CC#N | C2H3N
solvent | H2O | 20 mL | O | H2O
product | 2,6-Dimethoxy-4-methyl-8-(4-phthalimido-1-methylbutylamino)-5-(3-trifluoromethylphenoxy)quinoline | COC1=NC2=C(C=C(C(=C2C(=C1)C)OC1=CC(=CC=C1)C(F)(F)F)OC)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C32H30F3N3O5
